Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum / anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ h/o HTN, hyperlipidemia who had a colonoscopy ~5 
months ago that revealed hyperplasia and hemorrhoids with recent 
Hct 39 (___) who p/w 2 days of bright red blood per rectum 
and significant Hct drop from ___. For last 2 days has had 
bright red blood mixed in dark brown stool w/ blood w/ wiping 
with every stool; today had dark stool (dark brown, not black 
per patient) and blood w/ wiping. Patient feels like he has been 
pushing back a hemmorhoid after having stools. Stool are 
non-painful, and no abd pain. No N/V. No other easy bruising. On 
Plavix but no other anticoagulants. No ibuprofen/aspirin use. 
Seen by primary care physician ___/ bloodwork notable for Hct 29.  

 
 In the ___, initial vital signs were: pain 3 97.6 81 141/53 18 
100% RA  
 - Exam notable for: benign abd exam. Rectal exam w/ hemorrhoid 
& dark brown stools guaiac+  
 - Labs were notable for lactate 1.5 BMP notable for BUN/Cr 
___, K 5.3 (but hemolyzed), normal Ca,Mg,P, CBC: 7.1/9.8/30.4 
normal Coags,  
 - No additional studies were performed  
 - Patient was not given any medication  
 - Vitals on transfer: pain 0 98.0 81 140/60 18 100% RA  
 Upon arrival to the floor, the patient is comfortable. Notes he 
has had no more than 2 stools a day. No melena. No diarrhea, all 
brown and formed. Does note some blood in toilet blood, bright 
red, in addition to stool, and on toilet paper. Notes 
occasionally feeling lightheaded when standing, no falls. No CP, 
SOB, or abd pain.  
 
 Review of Systems:  
 Negative aside from HPI  

 
Past Medical History:
HTN  
 Diabetes not on insulin  
 BPH  
 ? h/o gout  
 Hemorrhoids  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission Exam:
==================
Vitals 97.8 PO 144/87 81 18 99 Ra  
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, R eye with significant cataract, 
extraocular muscles intact. Moist mucous membranes. Oropharynx 
is clear.  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.  
LUNGS: Clear to auscultation bilaterally ___ breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales.  

RECTAL: no blood in rectum, external hemorrhoid, guaiac + In ___  

ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions  
NEUROLOGIC: CN2-12 intact. moving all extremities with purpose  
.
Discharge Exam:
==================
Vitals afebrile BP 100-144/50-80 HR ___ RR 18 SpO2 99 RA
GENERAL: AOx3, NAD  
HEENT: pink conjunctival mucosa.  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD. Loud S2  
ABDOMEN: decreased bowel sounds, soft, NT/ND. No organomegaly  

 
Pertinent Results:
Labs on admission:
====================
___ 05:21PM BLOOD WBC-7.1 RBC-3.52* Hgb-9.8* Hct-30.4* 
MCV-86 MCH-27.8 MCHC-32.2 RDW-14.0 RDWSD-43.2 Plt ___
___ 05:21PM BLOOD Neuts-61.0 ___ Monos-7.3 Eos-0.6* 
Baso-0.3 Im ___ AbsNeut-4.32 AbsLymp-2.16 AbsMono-0.52 
AbsEos-0.04 AbsBaso-0.02
___ 05:21PM BLOOD ___ PTT-32.3 ___
___ 05:21PM BLOOD Plt ___
___ 05:21PM BLOOD Glucose-107* UreaN-21* Creat-1.5* Na-137 
K-5.3* Cl-97 HCO3-26 AnGap-19
___ 05:21PM BLOOD Calcium-9.4 Phos-3.4 Mg-1.9
___ 05:35PM BLOOD Lactate-1.5
.
Microbiology:
====================
UA negative
UCx pending, NGTD
.
Imaging/studies:
====================
None
.
Labs on discharge:
====================
___ 10:01AM BLOOD WBC-5.1 RBC-3.38* Hgb-9.6* Hct-29.8* 
MCV-88 MCH-28.4 MCHC-32.2 RDW-14.3 RDWSD-44.7 Plt ___
___ 10:01AM BLOOD Hypochr-1+ Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-OCCASIONAL Microcy-NORMAL 
Polychr-OCCASIONAL Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 10:01AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-86 UreaN-19 Creat-1.4* Na-142 
K-3.9 Cl-103 HCO3-28 AnGap-15
___ 10:01AM BLOOD Iron-PND
___ 06:20AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.9
___ 10:01AM BLOOD VitB12-PND Ferritn-34 TRF-PND
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman w/ h/o HTN, hyperlipidemia 
who had a colonoscopy ~5 months ago that revealed hyperplasia, 
hemorrhoids, and diverticulosis with recent Hct 39 (___) 
who presented with 2 days of bright red blood per rectum and 
significant Hct drop from ___. He was found to be 
hemodynamically stable with no further evidence of active 
bleeding during this admission. His hemorrhoids were treated 
with corticosteroid cream as well as a stool-softening regimen. 
His bleeding was felt to be most likely from a combination of 
hemorrhoidal bleeding and diverticulosis. Gastroenterology felt 
that he did not need an inpatient colonoscopy but did recommend 
that he receive an outpatient colonoscopy within the next month. 
He had a peripheral blood smear which was significant for 
microcytic and hypochromic RBCs consistent with iron deficiency 
due to ongoing bleeding and he received IV ferric gluconate 
while inpatient. 

# Bright red blood per rectum:
Patient notes two days of increasing BRBPR, mostly on toilet 
paper after wiping but also in toilet bowl. stool has always 
been brown or dark brown. No pain, upper GI symptoms, or melena. 
Notes at most ___ BM a day. Patient with ___ in ___ showing 
hyperplasia, hemorrhoids, diverticula with recommended repeat in 
___ months. Hct is 30, lower than ___ months ago by report, when 
it was ___. His bleeding was felt to be due to hemorrhoids vs. 
diverticulosis and he was treated with stool softeners and 
corticosteroid cream for his hemorrhoids. His anemia has been 
stable since patient was seen by PCP prior to ___ and was ___. He 
did not have any further evidence of active bleeding throughout 
his hospitalization and was clinically stable to be discharged 
with outpatient follow up.  Consideration can also be given to 
EGD to assess for occult source of GI bleeding as patient's self 
reported blood loss per rectum does not seem to correlate with 
his degree of detected anemia.  Patient only reports one cup of 
blood loss witnessed, but his hematocrit had dropped nearly 9 
points since last check.  

# Anemia - secondary to iron deficiency: Patient with Hct drop 
to 30 from baseline of 39, he had a blood smear which was 
significant for microcytic hypochromic RBCs, consistent with 
iron deficiency. Iron studies were sent and pending at time of 
discharge and patient was given IV ferric gluconate to replete 
his iron stores.  Ferritin of 34.  

# Hypertension
- continued metoprolol given patient's stability and lack of 
active bleeding
- continued chlorthalidone

# Benign prostatic hyperplasia
- continued finasteride

# Hyperlipidemia
- continued statin

# Coronary artery disease
- continued Plavix - obtain OSH to reconcile ___

TRANSITIONAL ISSUES
===================
[ ] Patient will need colorectal surgery appointment for 
potential hemorrhoid banding
[ ] Patient started on stool softeners for hemorrhoid management
[ ] Outpatient colonoscopy on ___ at 1PM
[ ] Consider outpatient EGD to work up for occult upper GI bleed
[ ] Blood smear with microcytic hypochromic RBCs c/w iron 
deficiency, please f/u iron studies and determine need for 
further iron repletion as outpatient
[ ] Patient not taking home allopurinol or glipizide, please 
perform medication reconciliation
# Code status: Full code
# Contact: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. Clopidogrel 75 mg PO QHS 
3. Finasteride 5 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Pravastatin 10 mg PO QPM 
6. Tamsulosin 0.4 mg PO DAILY 
7. Allopurinol ___ mg PO DAILY 
8. GlipiZIDE XL 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Hydrocortisone Cream 1% 1 Appl TP QID 
RX *hydrocortisone [Cortisone (hydrocortisone)] 1 % Apply to 
irritated hemmorhoids four times a day Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 g by mouth daily 
Refills:*0 
4.  Allopurinol ___ mg PO DAILY  
5.  Chlorthalidone 25 mg PO DAILY  
6.  Clopidogrel 75 mg PO QHS  
7.  Finasteride 5 mg PO DAILY  
8.  GlipiZIDE XL 2.5 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  Pravastatin 10 mg PO QPM  
11.  Tamsulosin 0.4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Anemia
Hemorrhoids
Bright red blood per rectum
Diverticulosis

SECONDARY DIAGNOSIS
===================
Hypertension
Benign prostatic hyperplasia
Hyperlipidemia
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were experiencing bleeding 
with your stools. This was likely from your hemorrhoids and your 
bowels given a recent colonoscopy showing hemorrhoids and 
diverticulosis, a condition that can cause bleeding. You were 
found to have anemia (low blood levels) from your bleeding. You 
were treated with creams to stop your hemorrhoids from getting 
irritated. You were given medications to help soften your 
stools. Having softer stools will help prevent bleeding. You 
were also given IV iron to help your body make more blood. You 
have a colonoscopy scheduled for next week and will need to 
complete a prep before the colonoscopy.

It is important that you follow up with your doctors and 
continue to take your medications as directed.

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___